US07659268B2
1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride (1.08 g, 4.15 mmol) was placed in an oven-dried flask which was allowed to cool under nitrogen. Dichloromethane (10 mL), triethylamine (1.75 mL, 12.5 mmol), and 6-chloro-5-ethylpyridin-2-amine (4.15 mmol) were added and the reaction mixture was stirred for 16 hours. The reaction mixture was then washed with a saturated aqueous solution of sodium chloride, evaporated to near dryness, and then purified on 40 g of silica gel utilizing a gradient of 0-30% ethyl acetate in hexanes to yield N-(6-chloro-5-ethylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (1.09 g, 69%). ESI-MS m/z calc. 380.1, found; 381.0 (M+1)+Retention time 2.24 minutes.

reactant | 1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride | 4.15 mmol, 1.08 g | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)Cl)F | C11H7ClF2O3
reactant | triethylamine | 12.5 mmol, 1.75 mL | C(C)N(CC)CC | C6H15N
reactant | 6-chloro-5-ethylpyridin-2-amine | 4.15 mmol | ClC1=C(C=CC(=N1)N)CC | C7H9ClN2
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(6-chloro-5-ethylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 1.09 g, 69% | ClC1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)CC | C18H15ClF2N2O3
